US04198504
(c) 3-(2-Sulfoethyl)pyridine
A mixture of Na2SO3 (2.7 g., 21 m.moles) and (3-(2-chloroethyl)pyridine (1.2 g., 8.5 m.moles) in water (10 ml.) was heated under reflux overnight with stirring and column chromatographed on IR-120 resin (H+, 100 ml.) by eluting with water. The eluate containing the desired product was collected and concentrated to give colorless plates (1.1 g., 69%), melting at 275°-278° C.

reactant | Na2SO3 | 2.7 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | 3-(2-chloroethyl)pyridine | 1.2 g | ClCCC=1C=NC=CC1 | C7H8ClN
solvent | water | 10 ml | O | H2O
product | 3-(2-Sulfoethyl)pyridine | S(=O)(=O)(O)CCC=1C=NC=CC1 | C7H9NO3S
